US05672697
3'-O-t-Butyldimethylsilylthymidine (11)
This compound was prepared from 5'-O-(4,4'-dimethoxytrityl)-thymidine by the same procedure used for the preparation of 3'-O-t-butyldimethylsilyl-N2 -isobutyryl-2'-deoxyguanosine.

reactant | 5'-O-(4,4'-dimethoxytrityl)-thymidine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C31H32N2O7
reactant | 3'-O-t-butyldimethylsilyl-N2 -isobutyryl-2'-deoxyguanosine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(NC(C(C)C)=O)=NC12 | C20H33N5O5Si
product | 3'-O-t-Butyldimethylsilylthymidine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C16H28N2O5Si
